US04782080
Under a nitrogen atmosphere, a mixture of o-mercaptophenylmalonamic acid (2.1 g, 0.01 m), dimethylformamide (20 ml), and concentrated hydrochloric acid (0.2 ml) are heated in an oil-bath at ca. 100° C. until thin-layer chromatography indicates the absence of starting malonamic acid. The cooled, stirred mixture is diluted with ice-water, aged and filtered to yield 2-hydroxybenzo(b)thiophene-3-carboxamide.

reactant | o-mercaptophenylmalonamic acid | 2.1 g | SC1=C(C=CC=C1)C(C(=O)O)C(=O)N | C9H9NO3S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | malonamic acid | C(CC(=O)N)(=O)O | C3H5NO3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-hydroxybenzo(b)thiophene-3-carboxamide | OC1=C(C2=C(S1)C=CC=C2)C(=O)N | C9H7NO2S
